US06544985B2
7-(Ethyl-methyl-amino)-8-methyl-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (5-(ethyl-methyl-amino)-4-methyl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester (Example M86) (0.38 g, 0.75 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as a light yellow solid (160 mg, 55%).

reactant | (5-(ethyl-methyl-amino)-4-methyl-2-{3-[3-(3-methyl-isoxazol-5-yl)-phenyl]-3-oxo-propionylamino}-phenyl)-carbamic acid tert-butyl ester | 0.75 mmol, 0.38 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)N(C)CC)C)NC(CC(=O)C1=CC(=CC=C1)C1=CC(=NO1)C)=O)=O | C28H34N4O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-(Ethyl-methyl-amino)-8-methyl-4-[3-(3-methyl-isoxazol-5-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | C(C)N(C1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NO2)C)=O)C=C1C)C | C23H24N4O2
